US08865739B2
To a solution of ethyl 6-chloro-2-(chloromethyl)-4-phenylquinoline-3-carboxylate (718 mg, 2.0 mmol) in dry N,N-dimethylformamide (3.0 ml) at room temperature was added 4-chloro-2-methoxyphenol (0.301 ml, 2.2 mmol) followed by sodium hydride (88.0 mg of a 60% oil dispersion, 2.2 mol). The mixture was stirred at room temperature for 18 hours, then the reaction mixture was diluted with ethyl acetate and poured into a separatory funnel. The organic phase was washed with saturated sodium bicarbonate and water (2×), then brine. The organic phase was separated, and the solvent removed under reduced pressure to provide a viscous oil. Upon sitting at room temperature overnight a solid formed, to which a mixture of 10% ethyl acetate/hexanes was added, and the resulting solid filtered off. The solid was washed with 20% ethyl acetate/hexanes and dried under reduced pressure to provide ethyl 6-chloro-2-((4-chloro-2-methoxyphenoxy)methyl)-4-phenylquinoline-3-carboxylate then provided PT-011 (558 mg, 58%) as a light yellow powder. TLC Rf=0.38 in 30% ethyl cetate:hexanes on a glass backed silica gel plate. 1H NMR (CDCl3, 400 MHz) δ 8.08 (d, 1H, J=8.9 Hz); 7.69 (dd, 1H, J=8.9, 2.3 Hz); 7.58 (d, 1H, J=2.3 Hz); 7.48-7.52 (m, 3H); 7.36-7.30 (m, 2H); 6.95-6.92 (app d, 1H, J=8.6 Hz); 6.75 (s, 1H); 6.78-6.70 (m, 1H); 5.50 (s, 2H); 3.90 (q, 2H, J=7.0 Hz); 3.80 (s, 3H); 0.82 (t, 3H, J=7.0 Hz). LC MS (CI) shows M+H 482.

reactant | ethyl 6-chloro-2-(chloromethyl)-4-phenylquinoline-3-carboxylate | 2.0 mmol, 718 mg | ClC=1C=C2C(=C(C(=NC2=CC1)CCl)C(=O)OCC)C1=CC=CC=C1 | C19H15Cl2NO2
reactant | 4-chloro-2-methoxyphenol | 2.2 mmol, 0.301 ml | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 6-chloro-2-((4-chloro-2-methoxyphenoxy)methyl)-4-phenylquinoline-3-carboxylate | ClC=1C=C2C(=C(C(=NC2=CC1)COC1=C(C=C(C=C1)Cl)OC)C(=O)OCC)C1=CC=CC=C1 | C26H21Cl2NO4
